US05879894
3-(1.3-Dioxolan-2-yl)bromobenzene
A solution of 3-bromobenzaldehyde (15.87 g, 85.78 mmol), 1,2-ethyleneglycol (8.01 g, 128.7 mmol) and p-toluenesulfonic acid hydrate (100 mg ) in benzene (200 ml) was refluxed at 110° C. under nitrogen for 3 hours, and the water formed in the reaction was collected through a Dean Stark trap. The resulting solution was cooled to room temperature, and washed with 10% sodium hydroxide (2×100 ml), water (4×100 ml) and brine (1×100 ml), and dried over magnesium sulfate. Removal of the solvent under reduced pressure gave the title compound as an oily material (16.8 g, 86%).

reactant | 3-bromobenzaldehyde | 85.78 mmol, 15.87 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | 1,2-ethyleneglycol | 128.7 mmol, 8.01 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid hydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 3-(1.3-Dioxolan-2-yl)bromobenzene | O1C(OCC1)C=1C=C(C=CC1)Br | C9H9BrO2
